* Z:\mnt\design.r\spice\examples\8316.asc
Vin IN 0 420
L1 IN N007 540µ
L2 0 N001 8.44µ
C2 OUT 0 1200µ
D1 N001 OUT RB058L150
Rsense N012 0 40m
Rload OUT 0 4
C3 N006 N003 47p
R4 N008 N009 108K
R5 N003 N008 44.2K
R6 N008 0 4.99K
D4 N007 N004 RFN1L7S
L3 0 N003 8.44µ
C5 N005 0 4.7µ
C7 IN N007 90p
C8 OUT 0 100µ
C9 N011 0 100n
R9 N013 0 61.9K
M1 N007 N010 N012 N012 STW11NM80
C1 N002 0 4.7µ
XU1 IN MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N005 N002 N006 N009 N008 N011 N013 0 0 N005 N012 N010 LT8316
D2 N003 N002 RB058L150
D5 IN N004 1N5378B
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 0.993
* 8:1:1
.tran 160m startup
.lib LT8316.sub
.backanno
.end
